US07015226B2
To a suspension of 3-hydroxybenzaldehyde (20.12 g, 160 mmol) in HOAc (40 mL) was added carefully tBuOCl (20 mL, 176 mmol) with stirring. The reaction became a clear solution and strongly exothermic. It was allowed to cool and stirred for 16 hours, resulting in a white precipitate. The solid was filtered, washed with H2O and dried to give 2-chloro-3-hydroxybenzaldehyde (13.77 g, 55%), GCMS (EI) m/z 156, 158 (M+).

reactant | 3-hydroxybenzaldehyde | 160 mmol, 20.12 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | tBuOCl | 176 mmol, 20 mL | C(C)(C)(C)OCl | C4H9ClO
solvent | HOAc | 40 mL | CC(=O)O | C2H4O2
product | 2-chloro-3-hydroxybenzaldehyde | 13.77 g, 55% | ClC1=C(C=O)C=CC=C1O | C7H5ClO2
